US08809525B2
3-(methylsulfanyl)-5-(3,5-difluorophenyl)-1,2,4-triazine (28 g, 80.0%) was prepared from methyl hydrazine carbimidothioate (20.68 g, 197.4 mmol) and 2-(3,5-difluorophenyl)-2-oxoacetaldehyde (25 g, 147.0 mmol) according to the general procedure of Preparation 2.

reactant | methyl hydrazine carbimidothioate | 197.4 mmol, 20.68 g | N(N)C(=N)SC | C2H7N3S
reactant | 2-(3,5-difluorophenyl)-2-oxoacetaldehyde | 147.0 mmol, 25 g | FC=1C=C(C=C(C1)F)C(C=O)=O | C8H4F2O2
product | 3-(methylsulfanyl)-5-(3,5-difluorophenyl)-1,2,4-triazine | 28 g, 80.0% | CSC=1N=NC=C(N1)C1=CC(=CC(=C1)F)F | C10H7F2N3S
